datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(OCC)[OH+:10]C([H])C([H])C1[H]>>[OH:10]C([H])C([H])C([C:20](OCC)=[OH+:21])[H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[S][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C([H])[O]2.[H][S:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C[O:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[O-:10]C(C)C(C)C([H])C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C([H])C(C)C(C)[O:10]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OCCCCCC)[H])[H]>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OCCCCCC)[H])[H] 10=20;20,21=21"
"[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(CC)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CC)C)C1=CC=CC=C1)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"[O:10]([K])C(CC)/C([H])=C([H])\C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])=C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C([O:21]1)[H])CC)[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C([O-:21])[H])CC)CCCCCC 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[S]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CC)C>>[H]C1C(C(O[C:20](=[O:10])N1CC)CC)C.[O-:21][H] 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H][O:10]C([H])C(CC)[O][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[O-:21][C:20]1(C)[O+:10]([Na])C(C)C([H])C1[H]>>[O:10]([Na])C(C)C([H])C([C:20](C)=[O:21])[H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CCCCCC)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CCCCCC)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"CCN([C:20]([O-:10])(O[H])[O:21]C)C1=CC=CC=C1>>CCN([C:20](=[O:10])O[H])C1=CC=CC=C1.[O-:21]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C([H])=C(C)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])/C(C)=C([H])\C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH]C([H])C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C([H])C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
